US05064825
Step A: Preparation of N'-cyano-N-[(carboethoxy) methyl]-valeramidine
To a solution of 100 mg (0.65 mmol) N-cyano-(ethylvaleramidate) (Example 1, Step B , in 2 mL absolute ethanol at room temperature was added 100 mg (0.72 mmol, 1.1 leq) ethyl glycinate hydrochloride followed by 0.30 mL triethylamine (220 mg, 2.16 mmol, 3.3 eq). The mixture was stirred at room temperature overnight then concentrated in vacuo to a gummy residue. The residue was treated with 20 mL of hexane/ethyl acetate (1:1), stirred vigorously, filtered, and the filtrate purified by medium pressure liquid chromatography on silica gel, eluting with hexane/ethyl acetate (1:1). The title compound (119 mg, 0.56 mmol, 87%) was thus obtained as a pale yellow oil that slowly solidified upon standing.

reactant | N-cyano-(ethylvaleramidate) | 0.65 mmol, 100 mg | C(#N)NC(C(CCC)CC)=O | C8H14N2O
reactant | ethyl glycinate hydrochloride | 0.72 mmol, 100 mg | Cl.NCC(=O)OCC
reactant | triethylamine | 2.16 mmol, 0.30 mL, 220 mg, 3.3 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N'-cyano-N-[(carboethoxy) methyl]-valeramidine | 0.56 mmol, 119 mg, 87% | C(#N)N=C(CCCC)NCC(=O)OCC | C10H17N3O2
